US07429605B2
399 mg (10.50 mmol) lithium aluminium hydride were given to 18 ml tetrahydrofuran (THF) and stirred at room temperature (r. t.) for 10 min. A solution of 1.30 g (5.25 mmol) 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid methyl ester in 18 ml THF was added drop by drop at 0° C. within 15 min., and the mixture stirred for 2 h at 0° C. 32 ml brine were added slowly at 0° C. and stirred continued for 2 h. The mixture was adjusted to pH=5 by slowly addition of conc. HCl. A formed salt precipitate was isolated by filtration and washed with THF. The combined THF-solutions were evaporated, the residue extracted twice with ethyl acetate, the organic phase dried (sodium sulphate) and evaporated. Chromatography on silica (eluent: ethyl acetate/n-heptane 1:1) gave 0.45 g (35%) of [6-(3-Chloro-phenyl)-pyridin-2-yl]-methanol

reactant | lithium aluminium hydride | 10.50 mmol, 399 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid methyl ester | 5.25 mmol, 1.30 g | COC(=O)C1=NC(=CC=C1)C1=CC(=CC=C1)Cl | C13H10ClNO2
reactant | HCl | Cl | ClH
solvent | THF | 18 ml | O1CCCC1 | C4H8O
solvent | brine | 32 ml | [Cl-].[Na+].O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | [6-(3-Chloro-phenyl)-pyridin-2-yl]-methanol | 0.45 g, 35% | ClC=1C=C(C=CC1)C1=CC=CC(=N1)CO | C12H10ClNO
